US05631401
N-Propyl-N-(3-phenoxybenzyl)amine
3-Phenoxybenzaldehyde (2.00 mL, 2.29 g, 11.6 mmol), n-propylamine (0.95 mL, 0.68 g, 11.5 mmol), and p-toluenesulfonic acid monohydrate (15 mg, 0.08 mmol) were dissolved in absolute ethanol (15 mL), then heated to 80° C. in a sealed tube for 2.5 hours. The reaction was cooled to room temperature, transfered to a round-bottom flask, then sodium borohydride (440 mg, 11.6 mmol) was added, followed by heating under reflux for 2.5 hours. The reaction was concentrated, the residue partitioned between water and EtOAc, the EtOAc layer washed with water and brine. After drying with Na2SO4, filtration, and concentration, the residue was purified by chromatography on silica gel eluting with 4:6 followed by 3:7 hexane-EtOAc to give 1.59 g (57%) of the title compound as a light yellow oil. 1H NMR (CDCl3) δ 7.30 (m, 3H), 7.08 (m, 2H), 7.00 (m, 3H), 6.88 (dd, 1H), 3.77 (s, 2H), 2.60 (t, 2H), 1.53 (m, 2H), 0.92 (t, 3H). MS (DCl/NH3) m/e 242 (M+H)+.

reactant | 3-Phenoxybenzaldehyde | 11.6 mmol, 2.00 mL, 2.29 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | n-propylamine | 11.5 mmol, 0.95 mL, 0.68 g | C(CC)N | C3H9N
reactant | sodium borohydride | 11.6 mmol, 440 mg | [BH4-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | p-toluenesulfonic acid monohydrate | 0.08 mmol, 15 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | N-Propyl-N-(3-phenoxybenzyl)amine | 1.59 g, 57% | C(CC)NCC1=CC(=CC=C1)OC1=CC=CC=C1 | C16H19NO
